US04129601
o-(methoxymethoxy)-phenol
110 parts by weight of pyrocatechol is dissolved in 400 parts by weight of benzene. At room temperature there are simultaneously dripped into this solution 101 parts by weight of triethylamine and 81 parts by weight of chloromethyl methyl ether in such a manner that the reaction medium has a weakly alkaline reaction. Subsequently the mixture is heated for an hour under reflux and then allowed to cool. The hydrochloride is removed by suction filtration and the product is washed, dried over Na2SO4, concentrated and distilled in vacuo.

reactant | pyrocatechol | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | chloromethyl methyl ether | COCCl | C2H5ClO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | o-(methoxymethoxy)-phenol | COCOC1=C(C=CC=C1)O | C8H10O3
